US06066641
a) 4-Picolylurea
5.1 ml of 5N HCl was added to a solution of 2.53 ml of 4-picolylamine and 1.66 g of sodium cyanate in 50 ml of water. After 5 hours, a further 0.166 g of cyanate were added and the pH adjusted to 7.5. After 18 hours the reaction mixture was evaporated to dryness, the residue extracted with 100 ml of hot 2-propanol. The filtrate was concentrated, cooled and the solid collected to give the title compound (3.03 g) mp 194-6° C. A further 0.63 g could be isolated as second and third crops.

reactant | HCl | 5N, 5.1 ml | Cl | ClH
reactant | 4-picolylamine | 2.53 ml | N1=CC=C(C=C1)CN | C6H8N2
reactant | sodium cyanate | 1.66 g | [O-]C#N.[Na+]
reactant | cyanate | 0.166 g | [O-]C#N
solvent | water | 50 ml | O | H2O
product | 4-Picolylurea | 3.03 g | N1=CC=C(C=C1)CNC(=O)N | C7H9N3O
